US09062033B2
methyl-2-fluoro-6-(pyrimidin-2-yl)benzoate (D78)
Methyl 2-fluoro-6-iodobenzoate (17 g, 61 mmol, 1 eq.) and 2-(tributylstannyl)pyrimidine (26.7 g, 72 mmol, 1.2 eq.) were dissolved in 120 ml of dry DMF under nitrogen atmosphere. Cesium fluoride (18.1 g, 119 mmol, 2 eq., highly hygroscopic) was added and nitrogen was bubbled into the suspension for 5 minutes. While bubbling, Copper iodide (1.1 g, 5.77 mmol 0.1 eq.) and tetrakis(triphenylphosphine)palladium(0) (6.9 g, 5.97 mmol, 0.1 eq) were added. The mixture was then heated at 115° C. for 45 minutes. After that, it was allowed to cool to room temperature, diluted with a large volume of AcOEt and filtered over celite. The resulting liquid phase was washed thoroughly with a saturated aqueous solution of ammonium chloride to remove DMF, dried with sodium sulphate, filtered and evaporated to dryness.

reactant | Methyl 2-fluoro-6-iodobenzoate | 61 mmol, 17 g, 1 eq. | FC1=C(C(=O)OC)C(=CC=C1)I | C8H6FIO2
reactant | 2-(tributylstannyl)pyrimidine | 72 mmol, 26.7 g, 1.2 eq. | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | Cesium fluoride | [F-].[Cs+]
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | Copper iodide | 5.77 mmol, 1.1 g, 0.1 eq. | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.97 mmol, 6.9 g, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl-2-fluoro-6-(pyrimidin-2-yl)benzoate | COC(C1=C(C=CC=C1C1=NC=CC=N1)F)=O | C12H9FN2O2
